US09193692B2
B. tert-Butyl-4-bromo-1H-pyrrolo[2,3-b]pyridine-1-carboxylate
A mixture of 4-bromo-1H-pyrrolo[2,3-b]pyridine (250 mg, 1.26 mmol), di-tert-butyl dicarbonate (302 mg, 1.38 mmol), dimethyl-pyridin-4-yl-amine (7.6 mg, 0.06 mmol) and triethylamine (127 mg, 1.26 mmol) in anhydrous methylene chloride (15 mL) was stirred at room temperature for 3 h. Upon completion of the reaction as indicated by TLC, the volatiles were removed under reduced pressure and the residue was purified by column chromatography on silica gel (9-25% ethyl acetate in petroleum ether) to give the desired product (230 mg, 61% yield) as an oil. MS (ESI) m/z 242.9 [M-56+1]+

reactant | 4-bromo-1H-pyrrolo[2,3-b]pyridine | 1.26 mmol, 250 mg | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | di-tert-butyl dicarbonate | 1.38 mmol, 302 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.26 mmol, 127 mg | C(C)N(CC)CC | C6H15N
catalyst | dimethyl-pyridin-4-yl-amine | 0.06 mmol, 7.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl-4-bromo-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 230 mg, 61% yield | C(C)(C)(C)OC(=O)N1C=CC=2C1=NC=CC2Br | C12H13BrN2O2
